US05977025
Preparation of 2-methyl-2-(6-methyl-5-phenyl-2 3-dihydro-4-oxo-4H-1,3-oxazin-3-yl)-butyric Acid (Compd. No. 650)
To a solution of methyl 2-methyl-2-(6-methyl-5-phenyl-2, 3-dihydro-4-oxo-4 H-1,3-oxazin-3-yl)-butyrate (1.91 g) in 20 ml of ethanol was added at room temperature 30 ml of aq. NaOH (0.3N). After stirring for 24 h, ethanol was evaporated, and the mixture was acidified by hydrochloric acid. The precipitate was filtered off and dried to get the captioned compound (1.36 g).

reactant | methyl 2-methyl-2-(6-methyl-5-phenyl-2, 3-dihydro-4-oxo-4 H-1,3-oxazin-3-yl)-butyrate | 1.91 g | CC(C(=O)OC)(CC)N1COC(=C(C1=O)C1=CC=CC=C1)C | C17H21NO4
reactant | NaOH | 0.3N, 30 ml | [OH-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-methyl-2-(6-methyl-5-phenyl-2 3-dihydro-4-oxo-4H-1,3-oxazin-3-yl)-butyric Acid | 1.36 g | CC(C(=O)O)(CC)N1COC(=C(C1=O)C1=CC=CC=C1)C | C16H19NO4
